US05514680
A mixture of 1-acetamido-2-nitro-3,5-bis(trifluoromethyl)benzene (200 mg, 0.63 mmol) in concentrated HCl (3 mL) and EtOH (3 mL) was refluxed overnight, then it was extracted by ethyl acetate (2×3 mL). The extract was dried over Mg2SO4 and evaporated to give 2-nitro-3,5-bis(trifluoromethyl)aniline 123 mg (71%). 1H NMR (DMSO-d6): δ6.392 (s, 2H), 7.131 (s, 1H), 7.375 (s, 1H).

reactant | 1-acetamido-2-nitro-3,5-bis(trifluoromethyl)benzene | 0.63 mmol, 200 mg | C(C)(=O)NC1=C(C(=CC(=C1)C(F)(F)F)C(F)(F)F)[N+](=O)[O-] | C10H6F6N2O3
solvent | HCl | 3 mL | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-nitro-3,5-bis(trifluoromethyl)aniline | 123 mg, 71% | [N+](=O)([O-])C1=C(N)C=C(C=C1C(F)(F)F)C(F)(F)F | C8H4F6N2O2
